US06872835B2
3-Butine-2-ol (0.701 g, 10 mmol), aniline (0.931 g, 10 mmol), Ru3(CO)12 (32.0 mg, 0.05 mmol) and aniline hydrochloride (0.259 g, 2.0 mmol) were placed in a 10 ml round-bottomed flask, and the mixture was stirred at 120° C. for 12 hours. After cooling, dichloromethane (3 mL) was added, and the organic layer was washed twice with 1 M hydrochloric acid (2 mL) and once with water (2 mL). The organic layer was dried over sodium sulfate, and the solvent was distilled away, whereby 2,3-dimethyl indole (1.31 g; 9.0 mmol; yield, 90%; purity, about 99%) was obtained.

reactant | 3-Butine-2-ol | 10 mmol, 0.701 g | CC(C#C)O | C4H6O
reactant | aniline | 10 mmol, 0.931 g | NC1=CC=CC=C1 | C6H7N
reactant | aniline hydrochloride | 2.0 mmol, 0.259 g | Cl.NC1=CC=CC=C1
catalyst | Ru3(CO)12 | 0.05 mmol, 32.0 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Ru].[Ru].[Ru]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 2,3-dimethyl indole | 9.0 mmol, 1.31 g | CC=1NC2=CC=CC=C2C1C | C10H11N
